US05606051
p-Nitrobenzyl (5R,6S)-6[(1R)-1-hydroxyethyl]-2-(5-methyl-1-phenylpyrazol-3-yl)carbapen-2-em-3-carboxylate (122 mg) in tetrahydrofuran (THF) (1 0 ml) and water (10 ml) was treated with sodium hydrogen carbonate (42 mg) (10 ml) and 3% Pd-C catalyst (50 mg) and the mixture was hydrogenated at atmospheric pressure for 5-10 min. The mixture was filtered through Kieselguhr, washing the filter cake with water and ethyl acetate. Combined flitrate and washings were reduced in volume using a rotary evaporator, a little NaCl was added and the mixture was chromatographed on a Diaion HP20SS column (2×10 cm), eluting with water (200 ml), followed by water/THF mixtures: -2% THF (100 ml); followed by 3% THF (100 ml), followed by 4% THF, followed by 6% THF. Fractions were monitored by uv and hplc. Fractions containing the product were combined and evaporated to lower volume and then freeze-dried to give sodium (5R, 6S)-6[(1R)-1-hydroxyethyl]-2-(5-methyl-1-phenylpyrazol-3-yl)carbapen-2-em-3-carboxylate (80 mg) νmax (KBr)/cm-1 1786, 1756, 1588, 1501, 1412, 1383, 1359, 1288 1246, 1223, and 1145; λmax (H2O)/nm 300.0 (ε/dm3 mol-1 cm-1 13,232), 236.5 (ε7,027); δ(D2O) 1.26 (3H, d, J 6.4 Hz), 2.20 (3H,s), 3.1-3.29 (2H, m), 3.46 (1H, dd, J 2.9 & 5.9 Hz), 4.16-4.28 (2H, m), 6.61 (1H,s), 7.39-7.57 (5H,m).;

reactant | p-Nitrobenzyl (5R,6S)-6[(1R)-1-hydroxyethyl]-2-(5-methyl-1-phenylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 122 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)C)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C26H24N4O6
reactant | sodium hydrogen carbonate | 10 ml, 42 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 0 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | sodium (5R, 6S)-6[(1R)-1-hydroxyethyl]-2-(5-methyl-1-phenylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 80 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)C)C2=CC=CC=C2)C(=O)[O-])C1=O.[Na+] | InChI=1S/C19H19N3O4.Na/c1-10-8-14(20-22(10)12-6-4-3-5-7-12)13-9-15-16(11(2)23)18(24)21(15)17(13)19(25)26;/h3-8,11,15-16,23H,9H2,1-2H3,(H,25,26);/q;+1/p-1/t11-,15-,16-;/m1./s1
